US04011225
5,6,7,8-tetrahydroquinoline-8-carboxamide.
Methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate (9 g.) was dissolved in methanol previously saturated with ammonia (270 ml.) and heated in a bomb at 100° C for 5 days. The solvent was removed and the residual oil triturated with hot petroleum ether (40°-60°). The resultant solid was filtered and then recrystallised from ethylacetate giving the title compound as colourless needles mpt. 132° C (5 g.). Found: C, 67.7; H, 7.1; N, 16.0%. C10H12N2O requires: C, 68.1; H, 6.9; N, 15.9%.

reactant | Methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate | 9 g | COC(=O)C1CCCC=2C=CC=NC12 | C11H13NO2
reactant | ammonia | 270 ml | N | H3N
solvent | methanol | CO | CH4O
product | 5,6,7,8-tetrahydroquinoline-8-carboxamide | N1=CC=CC=2CCCC(C12)C(=O)N | C10H12N2O
